US07994324B2
rac-N′-{2-[(7-methoxy-indan-1-yl)amino]quinolin-5-yl}-N,N-dimethylsulfamide
The title compound, MS: m/e=413.4 (M+H+), was prepared in accordance with the general method of example 17 from N2-(7-methoxy-indan-1-yl)-quinoline-2,5-diamine and dimethyl sulfamoyl chloride.

reactant | N2-(7-methoxy-indan-1-yl)-quinoline-2,5-diamine | COC=1C=CC=C2CCC(C12)NC1=NC=2C=CC=C(C2C=C1)N | C19H19N3O
reactant | dimethyl sulfamoyl chloride | CN(S(=O)(=O)Cl)C | C2H6ClNO2S
product | rac-N′-{2-[(7-methoxy-indan-1-yl)amino]quinolin-5-yl}-N,N-dimethylsulfamide | COC=1C=CC=C2CCC(C12)NC1=NC2=CC=CC(=C2C=C1)NS(=O)(=O)N(C)C | C21H24N4O3S
